US08212045B2
Pyridin-2(1H)-thione (0.768 g, 6.90 mmol) and 5-bromo-3-(2,4-dimethylpyridin-3-yloxy)picolinonitrile (2.00 g, 6.58 mmol) were added to DMF (12 mL) and cooled to 0° C. 95% Sodium hydride (0.174 g, 6.90 mmol) was slowly added and the reaction was warmed to ambient temperature and stirred overnight. The reaction mixture was poured into water (100 mL) and stirred for 30 minutes. A cloudy milky solution that was not filterable resulted. The reaction was extracted twice with ethyl acetate. The combined organic layers were washed twice with water and brine, dried, and concentrated. The residue was purified over silica gel (2:3 to 0:1 hexane:ethyl acetate) to afford 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile (2.03 g, 6.07 mmol, 92.3% yield) as a white powder.

reactant | Pyridin-2(1H)-thione | 6.90 mmol, 0.768 g | N1C(C=CC=C1)=S | C5H5NS
reactant | 5-bromo-3-(2,4-dimethylpyridin-3-yloxy)picolinonitrile | 6.58 mmol, 2.00 g | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC=CC1C)C | C13H10BrN3O
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | 6.90 mmol, 0.174 g | [H-].[Na+]
solvent | water | 100 mL | O | H2O
product | 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile | 6.07 mmol, 2.03 g, 92.3% yield | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C#N)C | C18H14N4OS
